US08278482B2
2-(4-(2-(tert-Butoxycarbonylamino)propan-2-yl)-1H-1,2,3-triazol-1-yl)-N,N,N-trimethylethanaminium bromide (6.20 g, 15.8 mmol) was dissolved in methanol (15 ml). To the solution was added 4M hydrogen chloride in dioxane (150 ml), and the combined reaction mixture was stirred for 4 hours at room temperature. The reaction mixture was concentrated and dissolved in water. Silver oxide (6.0 g) was added to the aqueous solution and the mixture was stirred at room temperature for 30 minutes. The solution was filtered through Celite®, and concentrated hydrochloric acid (2 ml) was added to the solution. The solution was filtered through Celite® a second time, and the aqueous solution was concentrated in vacuo. The crude material was purified by prep-HPLC (5-95% gradient of water/methanol with 0.05% acetic acid) to give 3.29 g (84%) 2-(4-(2-aminopropan-2-yl)-1H-1,2,3-triazol-1-yl)-N,N,N-trimethylethanaminium hydrochloride. 1H NMR (D2O) δ 8.27 (s, 1H), 5.07 (t, J=5.0 Hz, 2 H), 4.03 (t, J=5.1 Hz, 2 H), 3.21 (s, 9 H), 1.78 (s, 6 H); MS (ESI+) calculated for C10H22N5+: 212.19. Found: 212.2 (M+).

reactant | 2-(4-(2-(tert-Butoxycarbonylamino)propan-2-yl)-1H-1,2,3-triazol-1-yl)-N,N,N-trimethylethanaminium bromide | 15.8 mmol, 6.20 g | [Br-].C(C)(C)(C)OC(=O)NC(C)(C)C=1N=NN(C1)CC[N+](C)(C)C
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 2-(4-(2-aminopropan-2-yl)-1H-1,2,3-triazol-1-yl)-N,N,N-trimethylethanaminium hydrochloride | 3.29 g, 84% | Cl.NC(C)(C)C=1N=NN(C1)CC[N+](C)(C)C | InChI=1S/C10H22N5.ClH/c1-10(2,11)9-8-14(13-12-9)6-7-15(3,4)5;/h8H,6-7,11H2,1-5H3;1H/q+1;
